US06251926B1
To a stirred solution of 4-(4-chloromethyl-2,6-dimethoxyphenoxymethyl)-5-methyl-2-phenyloxazole (1.00 g) and methyl E-4hydroxyimino-4-phenylbutyrate (585 mg) in N,N-dimethylformamide (40 ml) was added sodium hydride (60% in oil, 115 mg) at 0° C. After stirring for 2 hours, the reaction mixture was poured into water, neutralized with 2N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried (MgSO4), and concentrated. The residue was purified by column chromatography on silica gel. Elution with ethyl acetate-hexane (1:3, v/v) gave methyl E-4-[3,5-dimethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyrate (970 mg, yield 65%) as a colorless oil.

reactant | 4-(4-chloromethyl-2,6-dimethoxyphenoxymethyl)-5-methyl-2-phenyloxazole | 1.00 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C(=C1)OC)OC | C20H20ClNO4
reactant | methyl E-4hydroxyimino-4-phenylbutyrate | 585 mg | O\N=C(/CCC(=O)OC)\C1=CC=CC=C1 | C11H13NO3
reactant | sodium hydride | 115 mg | [H-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl E-4-[3,5-dimethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyrate | 970 mg, yield 65% | COC=1C=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C(C1OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C31H32N2O7
